US04359420
A mixture of 12.2 g (50 mmol) of 4,5-dihydro-3-(hydroxymethyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one, 80.0 g of manganese dioxide and 500 ml of absolute methylene chloride is stirred at room temperature for 1 hour under an argon atmosphere and subsequently the manganese dioxide is filtered off under suction over Dicalit while rinsing with methylene chloride. The filtrate is evaporated to dryness in vacuo. After warming the residue in ca 150 ml of ethyl acetate, there is obtained 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde of melting point 205°-207° C.

reactant | 4,5-dihydro-3-(hydroxymethyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 50 mmol, 12.2 g | OCC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C13H13N3O2
catalyst | manganese dioxide | 80.0 g | [O-2].[O-2].[Mn+4]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C=O | C13H11N3O2
